US08202865B2
Step 2: 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoic acid
A solution of methyl 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoate (3 g; 9.99 mmol; 1 eq.) in EtOH (90 mL) at RT was treated with sodium hydroxide (5.99 mL; 5 M; 29.97 mmol; 3 eq.). The reaction mixture was stirred at 60° C. for 2 hours. The reaction mixture was concentrated to give a brown solid which was taken up in water (300 mL) and the aqueous phase was washed twice with EtOAc. The aqueous phase was acidified with HCl cc to pH 2 and extracted with EtOAc (250 mL). The organic layer was dried over MgSO4 and concentrated affording the title compound as a brown oil (2.60 g, 90%). 1H NMR (DMSO-d6, 300 MHz) δ 13.07 (br s, 1H), 8.34-8.24 (m, 2H), 7.57-7.54 (m, 1H), 7.47-7.46 (m, 1H), 7.34-7.33 (m, 1H), 1.98 (s, 3H). LC/MS (Method A): 284.9 (M−H)−. HPLC (Method A) Rt 4.53 min (Purity: 95.5%).

reactant | methyl 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoate | 9.99 mmol, 3 g, 1 eq. | CC=1C(=CSC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H11F3O2S
reactant | sodium hydroxide | 29.97 mmol, 5 M, 5.99 mL, 3 eq. | [OH-].[Na+]
solvent | EtOH | 90 mL | CCO | C2H6O
solvent | water | 300 mL | O | H2O
product | 4-(4-methyl-3-thienyl)-3-(trifluoromethyl)benzoic acid | 2.60 g, 90% | CC=1C(=CSC1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C13H9F3O2S
